US08227500B2
4-(3-Benzo[b]thiophene-3-yl-4-cyanopyrazole-1-yl)benzoic acid
A solution of 4-(3-benzo[b]thiophene-3-yl-4-formylpyrazole-1-yl)benzoic acid (0.26 g), hydroxylamine hydrochloride (0.058 g) and sodium formate (0.10 g) in formic acid (5 mL) was heated under reflux for 24 hours. To this reaction mixture was added water at room temperature, and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. This obtained residue was dissolved with pyridine (5 mL), to this mixture was added trifluoroacetic anhydride (0.48 g) in a dropwise manner under ice cooling, and this mixture was stirred at room temperature for 5 hours. To this reaction mixture was added 2 mol/L hydrochloric acid, and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The obtained residue was washed with n-hexane/diethyl ether=1/1 to give the title compound (0.13 g).

reactant | 4-(3-benzo[b]thiophene-3-yl-4-formylpyrazole-1-yl)benzoic acid | 0.26 g | S1C2=C(C(=C1)C1=NN(C=C1C=O)C1=CC=C(C(=O)O)C=C1)C=CC=C2 | C19H12N2O3S
reactant | hydroxylamine hydrochloride | 0.058 g | Cl.NO
reactant | sodium formate | 0.10 g | C(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 4-(3-Benzo[b]thiophene-3-yl-4-cyanopyrazole-1-yl)benzoic acid | 0.13 g | S1C2=C(C(=C1)C1=NN(C=C1C#N)C1=CC=C(C(=O)O)C=C1)C=CC=C2 | C19H11N3O2S
